US04936958
In a 200-ml three-neck flask, 4.45 g (45.2 mmol) of cyclohexanone, 7.05 g (47.5 mmol) of triethyl orthoformate, 0.04 g of p-toluenesulfonic acid (monohydrate), 4.15 g (90 mmol) ethanol and 95 ml of ethyl acetate were heated to 100° C. and kept at this temperature for 1 hour (reflux). Thus, 1,1-diethoxycyclohexane was formed. Then 4.0 g (22.7 mmol) of D-isoascorbic acid was added and the first heterogeneous mixture was refluxed for 5 hours, and a clear solution was formed. Then 2 g of aluminum oxide was added, the suspension was stirred for 1 more hour at room temperature and filtered over Celite®, which was rewashed three times with ethyl acetate. The filtrate was concentrated by evaporation at 35° C./30 mbars to 20.5 g, and a viscous pulp was formed. The product was completely precipitated by addition of 20 ml of hexane, filtered off and dried. The yield was 5.05 g (86.8 percent). The product had a melting point: 177° to 178.5° C. The product had the following properties:

reactant | cyclohexanone | 45.2 mmol, 4.45 g | C1(CCCCC1)=O | C6H10O
reactant | triethyl orthoformate | 47.5 mmol, 7.05 g | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid | 0.04 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethanol | 90 mmol, 4.15 g | C(C)O | C2H6O
solvent | ethyl acetate | 95 ml | C(C)(=O)OCC | C4H8O2
product | 1,1-diethoxycyclohexane | C(C)OC1(CCCCC1)OCC | C10H20O2
